*****************************************************************
* NXP PSMN2R6_30YLC
*
* Polarity N-Channel
* Ratings 30V/2.8E-03OHMS/25A
*
* Date Created Sat Apr  2 18:41:08 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R6_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000585

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00179397148452532 TC=0.00801860924673094,-1.12604829052927e-05
RBD 9 4 0.000853235941225377 TC=0.00801860924673094,-1.12604829052927e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 2.07812773629559e-09
RG 1 2 0.976633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2185.0
+ -10	2190.0
+ -5	2177.0
+ -4	2182.0
+ -3	2130.0
+ -2	1806.0
+ -1	1337.0
+ -0.5	1098.0
+ -0.2	948.5
+ -0.1	900.6
+ 0	853.3
+ 0.1	787.5
+ 0.2	727.6
+ 0.5	589.6
+ 1	461.2
+ 2	349.7
+ 3	297.3
+ 4	264.5
+ 5	242.8
+ 6	227.1
+ 8	203.5
+ 10	188.0
+ 12	178.8
+ 20	157.7
+ 25	149.6



.MODEL MINT NMOS(Vto=1.92958507545265 Kp=3.3181e+02 Nfs=600000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1250)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=2.04430796133914e-12
+ N=1 M=0.740000000000001 VJ=0.97 Fc=0.5 Cjo=2.5596e-09 Tt=3.3e-08)

.ENDS